US07601714B2
(trans-4-{[5-Bromo-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester (100 mg, 0.174 mmol), CuI (0.97 mg, 0.005 mmol), and Pd(PhCN)2Cl2 (1.96 mg, 0.005 mmol) were dissolved in degassed dioxane (0.5 mmol). To this solution was added tri-(tert)-butylphosphine tetrafluoroborate (2.4 mg, 0.010 mmol) followed by diisopropylamine (0.029 mL, 0.2 mmol) and phenylacetylene (0.022 mL, 0.2 mmol). The reaction was stirred at 25° C. for 18 h. The reaction was worked up by the addition of EtOAc and filtered through a plug of SiO2. The filtrate was concentrated and purified via flash chromatography (SiO2, 25% EtOAc-Hexanes) to yield (4-{[5-phenylethynyl-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester. (4-{[5-Phenylethynyl-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester was dissolved in CH2Cl2 (0.5 mL) and TFA (0.5 mL) was added. The solution was stirred for 2 h and the volatiles were removed and the crude residue was purified via preparative thin layer chromatography (SiO2, 2000 micron thickness, 1:9:90 NH4OH:CH3OH:CH2Cl2) to afford 49 mg (57%) of N4-[(trans-4-aminocyclohexyl)methyl]-5-(phenylethynyl)-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine, m/z 496.58 [M+1]+.

reactant | (4-{[5-Phenylethynyl-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1C#CC1=CC=CC=C1)NCC1=C(C=CC=C1)OC(F)(F)F)=O | C32H36F3N5O3
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N4-[(trans-4-aminocyclohexyl)methyl]-5-(phenylethynyl)-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 49 mg, 57% | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1C#CC1=CC=CC=C1)NCC1=C(C=CC=C1)OC(F)(F)F | C27H28F3N5O
